US07612114B2
5-Hydroxy-2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]isoindole-1,3-dione
A suspension of 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (1.0 g) and 4-hydroxyphthalic acid (1.0 g) in acetic acid (10 ml) was stirred for 1 hour at 140° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate, water and brine, and the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.5 g).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 1.0 g | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-hydroxyphthalic acid | 1.0 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | Water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]isoindole-1,3-dione | 1.5 g | OC=1C=C2C(N(C(C2=CC1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)=O | C26H23NO5
